US09216972B2
To 3-phenyl-4-(trifluoromethyl)isoxazole-5-carbaldehyde oxime (Intermediate I-12C, 0.34 g, 1.327 mmol) in N,N-dimethylformamide (1 mL) was added N-chlorosuccinamide (0.177 g, 1.327 mmol) in batches over a period of 2 min. at room temperature. The reaction mixture was stirred at room temperature for 30 min. An additional 0.09 g of N-chlorosuccinamide was added in one lot at room temperature and the contents were stirred for 20 min. The reaction mixture was partitioned between ethyl acetate (20 mL) and brine (2×20 mL). The ethyl acetate layer was dried over sodium sulfate and purified by silica gel column chromatography using hexane/ethyl acetate to yield N-hydroxy-3-phenyl-4-(trifluoromethyl)isoxazole-5-carbimidoyl chloride (0.250 g, 0.860 mmol, 64.8% yield) as a white solid. LC/MS M+1=291.2.

reactant | 3-phenyl-4-(trifluoromethyl)isoxazole-5-carbaldehyde oxime | 1.327 mmol, 0.34 g | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)C=NO | C11H7F3N2O2
reactant | N-chlorosuccinamide | 1.327 mmol, 0.177 g | ClNC(CCC(=O)N)=O | C4H7ClN2O2
reactant | N-chlorosuccinamide | 0.09 g | ClNC(CCC(=O)N)=O | C4H7ClN2O2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-hydroxy-3-phenyl-4-(trifluoromethyl)isoxazole-5-carbimidoyl chloride | 0.860 mmol, 0.250 g, 64.8% yield | ON=C(C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)Cl | C11H6ClF3N2O2
